US05225568
Preparation of 2-(p-Chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of trifluoroacetone (3.36 g, 2.7 mL,0.03 mol) in acetic acid is added dropwise at 100° C. to a solution of β-amino-α-bromo-p-chlorocinnamonitrile, (E)- or (Z)- (5.15 g, 0.02 mol) in acetic acid over 41/2 hours. The reaction mixture is heated at 100° C. overnight, diluted with water and extracted with ethyl acetate. The combined organic extracts are washed with water, dried over anhydrous Na2SO4 and concentrated in vacuo to obtain a gum. The gum is flash chromatographed using silica gel and a 15% ethyl acetate in heptane solution to give the title product as a yellow solid (1.8 g, mp 129°-131° C.) which is identified by 1H and 19FNMR spectral analyses.

reactant | trifluoroacetone | 0.03 mol, 2.7 mL, 3.36 g | FC(C(C)=O)(F)F | C3H3F3O
reactant | β-amino-α-bromo-p-chlorocinnamonitrile | NC(=C(C#N)Br)C1=CC=C(C=C1)Cl | C9H6BrClN2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(p-Chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 1.8 g | ClC1=CC=C(C=C1)C=1NC(=CC1C#N)C(F)(F)F | C12H6ClF3N2
